T1 (0 net353 net353 0) nfet L=2.76E-6 W=2.93E-6
R2 ( net102 net322)  R=6.0E5
T3 ( net322 net322 net418 vdd!)  pfet  L=1.65E-6 W=8.76E-6
T4 ( net418 net364 vdd! vdd!)  pfet  L=1.65E-6 W=8.76E-6
T5 ( net364 net364 vdd! vdd!)  pfet  L=1.65E-6 W=8.76E-6
T6 ( net296 net322 net364 vdd!)  pfet  L=1.65E-6 W=8.76E-6
T7 (net365 net226 net226 0) nfet L=9.00E-6 W=5.93E-6
R8 ( net7 net379)  R=2.0E5
T9 ( net379 net379 vdd! vdd!)  pfet  L=6.22E-6 W=6.20E-6
T10 ( net60 net379 vdd! vdd!)  pfet  L=6.22E-6 W=6.20E-6
T11 (net102 net87 net87 0) nfet L=6.65E-6 W=7.64E-6
C12 (net35 net320) C=5.4E-8
R13 ( net162 net173)  R=7.3E0
T14 ( net173 net201 0 0)  nfet  L=2.18E-6 W=8.83E-6
T15 ( net94 net201 0 0)  nfet  L=2.18E-6 W=8.83E-6
T16 ( vdd! net173 net201 0)  nfet  L=2.18E-6 W=8.83E-6
T17 (net403 net232 net232 0) nfet L=8.04E-6 W=1.31E-6
R18 (net37 net413) R=5.6E3
C19 (net258 net184) C=1.0E-5
T20 (net264 net369 net369 0) pfet L=4.41E-6 W=1.77E-6
R21 ( net31 net186)  R=7.0E5
T22 ( net186 net415 vdd! vdd!)  pfet  L=4.08E-6 W=6.05E-6
T23 ( net150 net415 vdd! vdd!)  pfet  L=4.08E-6 W=6.05E-6
T24 ( net336 net186 net150 vdd!)  pfet  L=4.08E-6 W=6.05E-6
T25 (net205 net6 net6 0) nfet L=10.00E-6 W=0.47E-6
R26 (net54 net236) R=7.3E0
R27 ( net60 net33)  R=5.3E4
T28 ( net33 net371 0 0)  nfet  L=2.08E-6 W=8.38E-6
T29 ( net106 net371 0 0)  nfet  L=2.08E-6 W=8.38E-6
T30 ( vdd! net33 net371 0)  nfet  L=2.08E-6 W=8.38E-6
C31 (net153 net93) C=3.7E-8
C32 (net175 net29) C=2.1E-13
R33 ( vdd! net187)  R=4.9E6
T34 ( net187 net187 0 0)  nfet  L=0.40E-6 W=5.53E-6
T35 ( net7 net187 0 0)  nfet  L=0.40E-6 W=5.53E-6
T36 (net413 net369 net369 0) pfet L=8.66E-6 W=7.64E-6
C37 (0 net388) C=4.5E-12
T38 (net299 net37 net37 0) pfet L=7.17E-6 W=4.20E-6
R39 ( 0 net165)  R=9.0E2
T40 ( net165 net95 vdd! vdd!)  pfet  L=2.44E-6 W=7.74E-6
T41 ( net163 net95 vdd! vdd!)  pfet  L=2.44E-6 W=7.74E-6
T42 ( net340 net165 net163 vdd!)  pfet  L=2.44E-6 W=7.74E-6
R43 (net82 net118) R=7.9E5
R44 ( net272 net15)  R=1.7E4
T45 ( net15 net132 0 0)  nfet  L=4.99E-6 W=7.18E-6
T46 ( net388 net132 0 0)  nfet  L=4.99E-6 W=7.18E-6
T47 ( vdd! net15 net132 0)  nfet  L=4.99E-6 W=7.18E-6
T48 (net137 net263 net263 0) nfet L=2.29E-6 W=0.32E-6
T49 (net108 net219 net219 0) nfet L=6.95E-6 W=7.26E-6
R50 ( net329 net321)  R=9.4E0
T51 ( net321 net192 0 0)  nfet  L=2.11E-6 W=1.58E-6
T52 ( net159 net192 0 0)  nfet  L=2.11E-6 W=1.58E-6
T53 ( vdd! net321 net192 0)  nfet  L=2.11E-6 W=1.58E-6
C54 (net421 net297) C=9.8E-8
T55 (0 net174 net174 0) pfet L=0.87E-6 W=6.48E-6
T56 (net393 net205 net205 0) pfet L=5.84E-6 W=2.79E-6
T57 (net219 net87 net87 0) nfet L=8.10E-6 W=4.58E-6
C58 (net63 net378) C=3.8E-10
R59 ( net143 net32)  R=4.1E2
T60 ( net32 net32 net310 vdd!)  pfet  L=3.98E-6 W=7.33E-6
T61 ( net310 net164 vdd! vdd!)  pfet  L=3.98E-6 W=7.33E-6
T62 ( net164 net164 vdd! vdd!)  pfet  L=3.98E-6 W=7.33E-6
T63 ( net246 net32 net164 vdd!)  pfet  L=3.98E-6 W=7.33E-6
R64 (net290 net196) R=5.5E2
R65 ( net148 net38)  R=5.5E1
T66 ( net38 net330 vdd! vdd!)  pfet  L=6.16E-6 W=6.15E-6
T67 ( net236 net330 vdd! vdd!)  pfet  L=6.16E-6 W=6.15E-6
T68 ( net408 net38 net236 vdd!)  pfet  L=6.16E-6 W=6.15E-6
T69 (vdd! net181 net181 0) pfet L=5.03E-6 W=3.41E-6
R70 (net363 net239) R=7.8E0
R71 ( vdd! net370)  R=8.8E0
T72 ( net370 net114 0 0)  nfet  L=0.67E-6 W=5.81E-6
T73 ( net145 net114 0 0)  nfet  L=0.67E-6 W=5.81E-6
T74 ( vdd! net370 net114 0)  nfet  L=0.67E-6 W=5.81E-6
T75 (net250 net158 net158 0) pfet L=4.83E-6 W=9.27E-6
R76 ( 0 net265)  R=8.6E2
T77 ( net265 net42 0 0)  nfet  L=1.58E-6 W=0.29E-6
T78 ( net410 net42 0 0)  nfet  L=1.58E-6 W=0.29E-6
T79 ( net189 net265 net410 0)  nfet  L=1.58E-6 W=0.29E-6
T80 (net243 net155 net155 0) nfet L=1.53E-6 W=8.94E-6
R81 ( net356 net176)  R=8.1E1
T82 ( net176 net176 net318 0)  nfet  L=1.52E-6 W=6.20E-6
T83 ( net318 net145 0 0)  nfet  L=1.52E-6 W=6.20E-6
T84 ( net145 net145 0 0)  nfet  L=1.52E-6 W=6.20E-6
T85 ( net231 net176 net145 0)  nfet  L=1.52E-6 W=6.20E-6
R86 (net13 net319) R=9.3E1
R87 (net162 net339) R=6.8E0
C88 (net103 0) C=7.6E-12
R89 ( net123 net281)  R=1.4E4
T90 ( net281 net281 0 0)  nfet  L=0.89E-6 W=8.09E-6
T91 ( net210 net281 0 0)  nfet  L=0.89E-6 W=8.09E-6
T92 (0 net125 net125 0) pfet L=8.40E-6 W=6.73E-6
R93 ( vdd! net170)  R=4.9E1
T94 ( net170 net170 net93 0)  nfet  L=7.98E-6 W=8.78E-6
T95 ( net93 net218 0 0)  nfet  L=7.98E-6 W=8.78E-6
T96 ( net218 net218 0 0)  nfet  L=7.98E-6 W=8.78E-6
T97 ( 0 net170 net218 0)  nfet  L=7.98E-6 W=8.78E-6
T98 (net120 net167 net167 0) nfet L=7.06E-6 W=0.69E-6
R99 (net250 net81) R=9.6E0
T100 ( net367 net367 vdd! vdd!)  pfet  L=8.04E-6 W=6.06E-6
T101 ( net25 net367 vdd! vdd!)  pfet  L=8.04E-6 W=6.06E-6
R102 ( net25 net213)  R=4.2E6
C103 (net405 net136) C=0.7E-5
R104 ( net356 net61)  R=3.4E3
T105 ( net61 net61 net224 vdd!)  pfet  L=1.98E-6 W=1.31E-6
T106 ( net224 net64 vdd! vdd!)  pfet  L=1.98E-6 W=1.31E-6
T107 ( net64 net64 vdd! vdd!)  pfet  L=1.98E-6 W=1.31E-6
T108 ( net229 net61 net64 vdd!)  pfet  L=1.98E-6 W=1.31E-6
C109 (vdd! net122) C=7.1E-5
R110 ( 0 net234)  R=5.7E1
T111 ( net234 net234 net299 vdd!)  pfet  L=7.99E-6 W=2.39E-6
T112 ( net299 net86 vdd! vdd!)  pfet  L=7.99E-6 W=2.39E-6
T113 ( net86 net86 vdd! vdd!)  pfet  L=7.99E-6 W=2.39E-6
T114 ( net333 net234 net86 vdd!)  pfet  L=7.99E-6 W=2.39E-6
T115 (net256 net328 net328 0) pfet L=8.33E-6 W=5.83E-6
T116 (net282 net85 net85 0) nfet L=3.83E-6 W=8.77E-6
R117 ( net326 net17)  R=7.2E5
T118 ( net17 net17 net184 vdd!)  pfet  L=6.05E-6 W=4.45E-6
T119 ( net184 net75 vdd! vdd!)  pfet  L=6.05E-6 W=4.45E-6
T120 ( net75 net75 vdd! vdd!)  pfet  L=6.05E-6 W=4.45E-6
T121 ( net287 net17 net75 vdd!)  pfet  L=6.05E-6 W=4.45E-6
C122 (net316 net301) C=3.7E-13
R123 ( net221 net414)  R=9.8E2
T124 ( net414 net168 vdd! vdd!)  pfet  L=7.80E-6 W=7.43E-6
T125 ( 0 net168 vdd! vdd!)  pfet  L=7.80E-6 W=7.43E-6
T126 ( 0 net414 net168 vdd!)  pfet  L=7.80E-6 W=7.43E-6
T127 (net209 net7 net7 0) nfet L=4.45E-6 W=2.52E-6
R128 ( net251 net292)  R=0.6E4
T129 ( net292 net348 0 0)  nfet  L=5.02E-6 W=8.04E-6
T130 ( net407 net348 0 0)  nfet  L=5.02E-6 W=8.04E-6
T131 ( vdd! net292 net348 0)  nfet  L=5.02E-6 W=8.04E-6
R132 (net16 net45) R=0.2E3
R133 ( net282 net4)  R=6.7E3
T134 ( net4 net60 vdd! vdd!)  pfet  L=9.16E-6 W=1.75E-6
T135 ( net34 net60 vdd! vdd!)  pfet  L=9.16E-6 W=1.75E-6
T136 ( net172 net4 net34 vdd!)  pfet  L=9.16E-6 W=1.75E-6
R137 (0 net317) R=3.5E2
C138 (net148 net376) C=2.5E-11
R139 ( net203 net13)  R=5.7E5
T140 ( net13 net13 net160 0)  nfet  L=4.90E-6 W=2.80E-6
T141 ( net160 net107 0 0)  nfet  L=4.90E-6 W=2.80E-6
T142 ( net107 net107 0 0)  nfet  L=4.90E-6 W=2.80E-6
T143 ( net179 net13 net107 0)  nfet  L=4.90E-6 W=2.80E-6
T144 (net251 net81 net81 0) nfet L=0.15E-6 W=5.10E-6
R145 ( net135 net11)  R=8.4E4
T146 ( net11 net302 vdd! vdd!)  pfet  L=0.82E-6 W=3.68E-6
T147 ( 0 net302 vdd! vdd!)  pfet  L=0.82E-6 W=3.68E-6
T148 ( 0 net11 net302 vdd!)  pfet  L=0.82E-6 W=3.68E-6
C149 (vdd! net306) C=2.1E-6
C150 (net135 net138) C=4.4E-10
R151 (net373 net304) R=0.2E0
R152 ( 0 net378)  R=4.1E1
T153 ( net378 net190 vdd! vdd!)  pfet  L=2.00E-6 W=1.41E-6
T154 ( net113 net190 vdd! vdd!)  pfet  L=2.00E-6 W=1.41E-6
T155 ( 0 net378 net190 vdd!)  pfet  L=2.00E-6 W=1.41E-6
T156 (net361 net55 net55 0) pfet L=2.17E-6 W=9.19E-6
R157 ( net103 net87)  R=0.4E3
T158 ( net87 net214 vdd! vdd!)  pfet  L=9.22E-6 W=4.96E-6
T159 ( net388 net214 vdd! vdd!)  pfet  L=9.22E-6 W=4.96E-6
T160 ( net29 net87 net388 vdd!)  pfet  L=9.22E-6 W=4.96E-6
C161 (net225 net313) C=8.4E-7
T162 (net77 net100 net100 0) nfet L=8.80E-6 W=9.54E-6
T163 (vdd! net152 net152 0) nfet L=8.65E-6 W=2.53E-6
T164 ( net342 net342 0 0)  nfet  L=4.07E-6 W=7.15E-6
T165 ( net14 net342 0 0)  nfet  L=4.07E-6 W=7.15E-6
R166 ( net14 net58)  R=6.4E5
C167 (net376 net156) C=9.2E-12
R168 (0 net255) R=0.2E3
R169 ( net267 net404)  R=1.5E2
T170 ( net404 net404 net247 0)  nfet  L=1.98E-6 W=2.70E-6
T171 ( net247 net221 0 0)  nfet  L=1.98E-6 W=2.70E-6
T172 ( net221 net221 0 0)  nfet  L=1.98E-6 W=2.70E-6
T173 ( net195 net404 net221 0)  nfet  L=1.98E-6 W=2.70E-6
T174 (net185 net94 net94 0) pfet L=9.56E-6 W=0.71E-6
T175 (net422 net191 net191 0) pfet L=9.74E-6 W=1.52E-6
T176 (net90 net102 net102 0) nfet L=7.82E-6 W=9.57E-6
T177 (net181 net327 net327 0) nfet L=8.13E-6 W=3.25E-6
R178 ( 0 net230)  R=0.8E2
T179 ( net230 net230 net109 0)  nfet  L=1.46E-6 W=6.00E-6
T180 ( net109 net178 0 0)  nfet  L=1.46E-6 W=6.00E-6
T181 ( net178 net178 0 0)  nfet  L=1.46E-6 W=6.00E-6
T182 ( net400 net230 net178 0)  nfet  L=1.46E-6 W=6.00E-6
T183 (net423 net344 net344 0) pfet L=7.13E-6 W=6.03E-6
R184 (vdd! net90) R=6.4E0
R185 (net417 net421) R=9.7E2
R186 ( net245 net211)  R=5.4E5
T187 ( net211 net211 0 0)  nfet  L=4.20E-6 W=0.94E-6
T188 ( net169 net211 0 0)  nfet  L=4.20E-6 W=0.94E-6
T189 (net315 net63 net63 0) pfet L=9.47E-6 W=0.20E-6
T190 ( net70 net70 0 0)  nfet  L=0.73E-6 W=6.33E-6
T191 ( net98 net70 0 0)  nfet  L=0.73E-6 W=6.33E-6
R192 ( net98 vdd!)  R=5.2E0
T193 (net396 net390 net390 0) pfet L=7.90E-6 W=7.91E-6
C194 (net308 net7) C=5.3E-12
R195 ( net55 net110)  R=5.0E3
T196 ( net110 net308 0 0)  nfet  L=0.83E-6 W=6.93E-6
T197 ( net136 net308 0 0)  nfet  L=0.83E-6 W=6.93E-6
T198 ( net167 net110 net136 0)  nfet  L=0.83E-6 W=6.93E-6
T199 (net51 net331 net331 0) pfet L=8.54E-6 W=8.28E-6
T200 (net78 net169 net169 0) pfet L=2.02E-6 W=5.74E-6
T201 ( net83 net83 vdd! vdd!)  pfet  L=9.86E-6 W=2.42E-6
T202 ( net251 net83 vdd! vdd!)  pfet  L=9.86E-6 W=2.42E-6
R203 ( net251 net396)  R=0.7E2
T204 (net374 vdd! vdd! 0) nfet L=7.46E-6 W=0.66E-6
R205 ( net90 net260)  R=2.4E3
T206 ( net260 net260 0 0)  nfet  L=2.53E-6 W=2.55E-6
T207 ( net393 net260 0 0)  nfet  L=2.53E-6 W=2.55E-6
T208 (net72 net346 net346 0) pfet L=2.38E-6 W=6.90E-6
R209 (net44 net92) R=5.1E6
R210 ( net237 net339)  R=0.3E0
T211 ( net339 net423 vdd! vdd!)  pfet  L=5.90E-6 W=5.37E-6
T212 ( net413 net423 vdd! vdd!)  pfet  L=5.90E-6 W=5.37E-6
T213 ( 0 net339 net423 vdd!)  pfet  L=5.90E-6 W=5.37E-6
R214 (0 net129) R=6.9E4
T215 (net311 net73 net73 0) nfet L=9.85E-6 W=0.38E-6
R216 ( net256 net102)  R=4.4E6
T217 ( net102 net102 vdd! vdd!)  pfet  L=4.32E-6 W=4.73E-6
T218 ( net400 net102 vdd! vdd!)  pfet  L=4.32E-6 W=4.73E-6
C219 (net105 net180) C=2.3E-10
R220 ( net406 net295)  R=7.2E0
T221 ( net295 net46 vdd! vdd!)  pfet  L=8.63E-6 W=6.61E-6
T222 ( net271 net46 vdd! vdd!)  pfet  L=8.63E-6 W=6.61E-6
T223 ( net335 net295 net271 vdd!)  pfet  L=8.63E-6 W=6.61E-6
T224 (net282 net300 net300 0) nfet L=8.65E-6 W=7.96E-6
C225 (net352 net185) C=5.1E-10
T226 ( net340 net340 vdd! vdd!)  pfet  L=3.73E-6 W=5.57E-6
T227 ( net71 net340 vdd! vdd!)  pfet  L=3.73E-6 W=5.57E-6
R228 ( net71 vdd!)  R=1.2E1
C229 (0 net258) C=3.6E-12
T230 (net409 vdd! vdd! 0) pfet L=6.45E-6 W=7.72E-6
R231 ( net401 net222)  R=7.5E4
T232 ( net222 net222 net287 vdd!)  pfet  L=3.80E-6 W=9.34E-6
T233 ( net287 net6 vdd! vdd!)  pfet  L=3.80E-6 W=9.34E-6
T234 ( net6 net6 vdd! vdd!)  pfet  L=3.80E-6 W=9.34E-6
T235 ( net225 net222 net6 vdd!)  pfet  L=3.80E-6 W=9.34E-6
R236 (net16 net362) R=5.7E6
T237 (net133 net20 net20 0) nfet L=7.28E-6 W=3.79E-6
R238 (net289 net283) R=4.4E5
R239 ( net376 net262)  R=0.3E1
T240 ( net262 net262 0 0)  nfet  L=8.23E-6 W=7.00E-6
T241 ( net336 net262 0 0)  nfet  L=8.23E-6 W=7.00E-6
T242 (0 net367 net367 0) pfet L=5.76E-6 W=2.03E-6
R243 ( net205 net81)  R=8.7E6
T244 ( net81 net284 vdd! vdd!)  pfet  L=9.84E-6 W=0.49E-6
T245 ( net41 net284 vdd! vdd!)  pfet  L=9.84E-6 W=0.49E-6
T246 ( net99 net81 net41 vdd!)  pfet  L=9.84E-6 W=0.49E-6
R247 (net288 net408) R=2.3E3
T248 (net413 net354 net354 0) nfet L=9.91E-6 W=3.86E-6
T249 (net325 net294 net294 0) pfet L=3.89E-6 W=4.58E-6
T250 (net70 net320 net320 0) pfet L=8.52E-6 W=7.18E-6
R251 ( net273 net352)  R=3.7E3
T252 ( net352 net352 net301 0)  nfet  L=8.41E-6 W=1.18E-6
T253 ( net301 net327 0 0)  nfet  L=8.41E-6 W=1.18E-6
T254 ( net327 net327 0 0)  nfet  L=8.41E-6 W=1.18E-6
T255 ( net9 net352 net327 0)  nfet  L=8.41E-6 W=1.18E-6
T256 (net51 net334 net334 0) pfet L=6.96E-6 W=4.51E-6
R257 ( net207 net158)  R=0.3E1
T258 ( net158 net158 net154 vdd!)  pfet  L=3.31E-6 W=4.11E-6
T259 ( net154 net398 vdd! vdd!)  pfet  L=3.31E-6 W=4.11E-6
T260 ( net398 net398 vdd! vdd!)  pfet  L=3.31E-6 W=4.11E-6
T261 ( net112 net158 net398 vdd!)  pfet  L=3.31E-6 W=4.11E-6
T262 (net315 net225 net225 0) pfet L=2.12E-6 W=8.46E-6
C263 (net389 net326) C=6.7E-9
T264 ( net166 net166 0 0)  nfet  L=2.79E-6 W=5.74E-6
T265 ( net252 net166 0 0)  nfet  L=2.79E-6 W=5.74E-6
R266 ( net252 net188)  R=5.1E4
R267 (0 net52) R=9.6E2
R268 ( vdd! net241)  R=4.3E6
T269 ( net241 net241 net345 vdd!)  pfet  L=5.58E-6 W=4.49E-6
T270 ( net345 net106 vdd! vdd!)  pfet  L=5.58E-6 W=4.49E-6
T271 ( net106 net106 vdd! vdd!)  pfet  L=5.58E-6 W=4.49E-6
T272 ( net373 net241 net106 vdd!)  pfet  L=5.58E-6 W=4.49E-6
T273 (net341 0 0 0) pfet L=3.84E-6 W=4.56E-6
T274 ( net72 net72 vdd! vdd!)  pfet  L=8.22E-6 W=9.63E-6
T275 ( net231 net72 vdd! vdd!)  pfet  L=8.22E-6 W=9.63E-6
R276 ( net231 net342)  R=3.4E0
T277 (net22 net116 net116 0) pfet L=6.69E-6 W=5.10E-6
R278 ( net245 net27)  R=3.7E4
T279 ( net27 net83 0 0)  nfet  L=8.61E-6 W=0.28E-6
T280 ( net244 net83 0 0)  nfet  L=8.61E-6 W=0.28E-6
T281 ( net204 net27 net244 0)  nfet  L=8.61E-6 W=0.28E-6
T282 (net193 net58 net58 0) pfet L=7.09E-6 W=8.04E-6
R283 ( net198 net338)  R=8.9E3
T284 ( net338 net338 net311 vdd!)  pfet  L=1.80E-6 W=7.97E-6
T285 ( net311 net412 vdd! vdd!)  pfet  L=1.80E-6 W=7.97E-6
T286 ( net412 net412 vdd! vdd!)  pfet  L=1.80E-6 W=7.97E-6
T287 ( net174 net338 net412 vdd!)  pfet  L=1.80E-6 W=7.97E-6
R288 (net386 vdd!) R=4.7E1
C289 (net417 net121) C=4.6E-12
C290 (vdd! net159) C=0.2E-10
R291 (net82 vdd!) R=1.6E6
T292 (net212 net374 net374 0) pfet L=3.32E-6 W=8.48E-6
R293 (net22 vdd!) R=2.3E5
R294 (net289 net294) R=2.7E6
T295 (net276 net166 net166 0) nfet L=2.97E-6 W=9.36E-6
R296 (net144 net290) R=1.1E6
R297 ( net325 net340)  R=3.2E3
T298 ( net340 net191 vdd! vdd!)  pfet  L=4.84E-6 W=8.93E-6
T299 ( net10 net191 vdd! vdd!)  pfet  L=4.84E-6 W=8.93E-6
T300 ( net341 net340 net10 vdd!)  pfet  L=4.84E-6 W=8.93E-6
C301 (net270 0) C=9.9E-5
T302 (net104 0 0 0) nfet L=9.21E-6 W=1.96E-6
C303 (net367 net63) C=3.0E-5
C304 (net159 vdd!) C=8.6E-14
T305 (net399 net55 net55 0) nfet L=6.55E-6 W=9.68E-6
T306 (net358 net277 net277 0) pfet L=9.65E-6 W=2.74E-6
R307 (net253 net100) R=6.3E1
C308 (net228 net303) C=4.5E-8
R309 (net112 net408) R=6.1E6
R310 (net196 net264) R=8.5E6
T311 (0 net206 net206 0) nfet L=6.21E-6 W=7.27E-6
T312 (net227 net344 net344 0) pfet L=1.79E-6 W=7.45E-6
T313 (net328 net257 net257 0) pfet L=6.23E-6 W=8.41E-6
R314 (net126 net421) R=0.5E3
T315 (net387 net155 net155 0) nfet L=0.83E-6 W=9.13E-6
T316 (net298 net365 net365 0) nfet L=1.55E-6 W=9.44E-6
R317 (net103 net3) R=7.4E1
T318 (net156 net335 net335 0) pfet L=6.09E-6 W=1.12E-6
T319 (net390 net373 net373 0) pfet L=1.45E-6 W=8.98E-6
T320 (net276 net57 net57 0) pfet L=2.43E-6 W=0.21E-6
R321 (net7 net413) R=8.5E3
C322 (net320 net161) C=1.1E-14
T323 (net264 net196 net196 0) nfet L=3.43E-6 W=2.95E-6
R324 (net324 0) R=9.2E0
C325 (net30 net179) C=3.5E-14
T326 (vdd! net334 net334 0) pfet L=1.72E-6 W=8.69E-6
T327 (net169 net298 net298 0) nfet L=2.98E-6 W=5.64E-6
C328 (net233 net21) C=9.1E-5

